US04117086
Preparation of 3-amino-1-hydroxypropane-1,1-diphosphonic acid
206 gm (1.5 mols) of phosphorus trichloride are slowly dropped while stirring into a mixture heated in a boiling water bath of 89.1 gm (1 mol) of β-alanine, 123 gm (1.5 mols) of phosphorous acid, and 500 ml of chlorobenzene, and heating on the boiling water bath is continued for a further 3 hours. During this time the contents of the flask become solid. After the reaction is finished, 600 ml of water are added and the product is heated for a short time, treated with animal charcoal and filtered while hot. The 3-amino-1-hydroxypropane-1,1-diphosphonic acid gradually crystallizes out from the aqueous phase in a cooling cabinet. The mother liquor is concentrated and treated with methanol, whereupon still further diphosphonic acid is precipitated. The 3-amino-1-hydroxypropane-1,1-diphosphonic acid is then recrystallized from water.

reactant | phosphorus trichloride | 1.5 mols, 206 gm | P(Cl)(Cl)Cl | Cl3P
reactant | β-alanine | 1 mol, 89.1 gm | NCCC(=O)O | C3H7NO2
reactant | phosphorous acid | 1.5 mols, 123 gm | P(O)(O)O | H3O3P
reactant | charcoal | C | CH4
solvent | water | 600 ml | O | H2O
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-amino-1-hydroxypropane-1,1-diphosphonic acid | NCCC(P(O)(=O)O)(P(O)(=O)O)O | C3H11NO7P2
